US05256655
To a solution of N-[2-(4-methoxybenzylthio)-2-methylpropyl]L-cysteine methyl ester (0.6 g) in dimethylformamide (DMF,10 ml), carbonyldiimidazole (0.34 g) was added and the mixture was stirred for 2.5 hr at 110°-120° C. After the addition of hydrochloric acid to the reaction mixture, the mixture was extracted with ethyl acetate. The organic layer was washed with 1N hydrochloric acid, water and then saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated in vacuo. The oily residue was purified by a silica gel column chromatography to give 0.35 g of (4R)-3-[2-(4-methoxybenzylthio)-2-methylpropyl]-4-methoxycarbonylthiazolidine-2-one.

reactant | N-[2-(4-methoxybenzylthio)-2-methylpropyl]L-cysteine methyl ester | 0.6 g | COC([C@@H](NCC(C)(C)SCC1=CC=C(C=C1)OC)CS)=O | C16H25NO3S2
reactant | carbonyldiimidazole | 0.34 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (4R)-3-[2-(4-methoxybenzylthio)-2-methylpropyl]-4-methoxycarbonylthiazolidine-2-one | 0.35 g | COC1=CC=C(CSC(CN2C(SC[C@H]2C(=O)OC)=O)(C)C)C=C1 | C17H23NO4S2
